US04496551
Preparation of Chloromethyl(diethoxy)phenylsilane
A solution of 1.0 g (0.0044 mol) of chloromethyl(dichloro)phenylsilane in 8 ml of absolute ethanol was cooled to 0° under nitrogen and stirred while 0.61 ml (0.445 g, 0.0044 mol) of triethylamine was slowly added, giving a slurry that was allowed to warm to room temperature. Addition of 50 ml of ether, filtration to remove precipitated triethylamine/hydrochloride, and evaporation of the filtrate left a residue which was filtered through a short silica gel column (95% petroleum ether:ethyl acetate as the eluent) to give 0.80 (73%) of the title compound as a colorless oil: nmr (CDCl3): δ 1.25 (t, 6, J=6 Hz), 3.0 (s, 2), 3.9 (q, 4, J=6 Hz) and 7.2-7.9 (m, 5).

reactant | chloromethyl(dichloro)phenylsilane | 0.0044 mol, 1.0 g | ClC[Si](C1=CC=CC=C1)(Cl)Cl | C7H7Cl3Si
reactant | triethylamine | 0.0044 mol, 0.61 ml, 0.445 g | C(C)N(CC)CC | C6H15N
reactant | ether | 50 ml | CCOCC | C4H10O
reactant | ethanol | 8 ml | C(C)O | C2H6O
product | Chloromethyl(diethoxy)phenylsilane | ClC[Si](C1=CC=CC=C1)(OCC)OCC | C11H17ClO2Si
